US04455422
1.9 Grams of 6-[1-oxo-3-(4-phenyl-1-piperidyl)propyl]-3,4-dihydrocarbostyril and 0.5 g of palladium black were dispersed in 80 ml of water and the dispersion was stirred under 2 atmospheric pressure of hydrogen gas at a room temperature for 5 hours. The reaction mixture was filtered for removing the palladium black and the mother liquor was concentrated under a reduce pressure then the residue thus obtained was crystallized by adding a small amount of ethanol then crude crystals thus obtained were collected by filtration and recrystallized from ethanol to obtain 1.4 g of 6-[1-hydroxy-3-(4-phenyl-1-piperidyl)-propyl]-dihydrocarbostyril in colorless plate-like crystals.

reactant | 6-[1-oxo-3-(4-phenyl-1-piperidyl)propyl]-3,4-dihydrocarbostyril | O=C(CCN1CCC(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C23H26N2O2
reactant | hydrogen | [H][H] | H2
solvent | water | 80 ml | O | H2O
catalyst | palladium black | 0.5 g | [Pd] | Pd
product | 6-[1-hydroxy-3-(4-phenyl-1-piperidyl)-propyl]-dihydrocarbostyril | 1.4 g | OC(CCN1CCC(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C23H28N2O2
